US05432286
2-Octadecylthiothieno[3,2-b]thiophene (12)
47 ml (75 mmol) of 1.6N n-butyllithium are added dropwise at room temperature under nitrogen as blanketing gas to 10 g (71 mmol) of thieno[3,2-b]thiophene dissolved in dry diethyl ether. The mixture is then allowed to reflux for 30 minutes. Subsequently, 2.4 g (75 mmol) of dried sulfur are added with ice cooling and vigorous stirring to the resulting suspension of the thieno[3,2-b]thiophenyl lithium salt. The mixture is then allowed to warm to room temperature and stirred for 60 minutes. After renewed cooling by means of an ice bath, 23.7 g (71 mmol) of octadecyl bromide dissolved in 100 ml of dry diethyl ether are then added dropwise. After the mixture has been stirred overnight at room temperature, 50 ml of 25% ammonium chloride solution are added with ice cooling.

reactant | n-butyllithium | 75 mmol, 1.6N, 47 ml | C(CCC)[Li]
reactant | thieno[3,2-b]thiophene | 71 mmol, 10 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | sulfur | 75 mmol, 2.4 g | [S] | S
reactant | thieno[3,2-b]thiophenyl lithium | S1C2=C(C=C1[Li])SC=C2
reactant | octadecyl bromide | 71 mmol, 23.7 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Octadecylthiothieno[3,2-b]thiophene | C(CCCCCCCCCCCCCCCCC)SC1=CC2=C(S1)C=CS2 | C24H40S3
